* TL074 JFET-INPUT OPERATIONAL AMPLIFIER - DEFINITIVELY COMPATIBLE MODEL
* This model uses only fundamental components (no behavioral sources)
* and standard syntax to ensure maximum compatibility.
*
* CONNECTIONS:
* NON-INVERTING INPUT
* | INVERTING INPUT
* | | POSITIVE POWER SUPPLY
* | | | NEGATIVE POWER SUPPLY
* | | | | OUTPUT
* | | | | |
.SUBCKT TL074    1 2 3 4 5
* INPUT STAGE
* --- FIX APPLIED HERE ---
* The non-standard input offset voltage source (EOS) has been replaced with a
* standard V-source in series with the input. Node '1_internal' is a new internal node.
  VOS 1 1_internal -0.002
  J1 101 1_internal 100 JFET
* --- END OF FIX ---
  J2 102 2 100 JFET
  R1 3 101 5.6k
  R2 3 102 5.6k
  I1 100 4 1mA
* GAIN STAGE
  Q1 103 101 4 NPN
  Q2 5 102 103 PNP
  R3 3 103 1k
  C1 101 102 10p
* OUTPUT STAGE
  Q3 3 5 5 NPN_OUT
  Q4 5 5 4 PNP_OUT
.MODEL JFET NJF(VTO=-2 BETA=0.5m)
.MODEL NPN NPN(BF=100)
.MODEL PNP PNP(BF=50)
.MODEL NPN_OUT NPN(BF=200 IS=1E-13)
.MODEL PNP_OUT PNP(BF=150 IS=1E-13)
.ENDS TL074
